US07256219B2
1-[2,5-Bis(2,2,2-trifluoroethoxy)phenyl]-3-(3,4,5-trimethoxyphenyl)-2-propen-1-one
The title compound was prepared from a mixture of 2,5-bis(2,2,2-trifluoroethoxy)acetophenone (200 mg, 0.633 mmol) and 3,4,5-trimethoxybenzaldehyde (124 mg, 0.633 mmol) similar to Example 6 and isolated as a bright yellow solid (120 mg, 38%), 1H NMR (CDCl3): 7.65 (d, J=15.6 Hz, 1H), 7.42 (d, J=15.6 Hz, 1H), 7.34 (d, J=3.3 Hz, 1H), 7.12 (dd, J=3.3, 9.0 Hz, 1H), 6.93 (d, J=9.0 Hz, 1H), 6.85 (s, 2H), 4.48-4.34 (m, 4H), 3.90 (d, J=1.8 Hz, 9H).

reactant | 2,5-bis(2,2,2-trifluoroethoxy)acetophenone | 0.633 mmol, 200 mg | CC(=O)C1=C(C=CC(=C1)OCC(F)(F)F)OCC(F)(F)F | C12H10F6O3
reactant | 3,4,5-trimethoxybenzaldehyde | 0.633 mmol, 124 mg | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
product | 1-[2,5-Bis(2,2,2-trifluoroethoxy)phenyl]-3-(3,4,5-trimethoxyphenyl)-2-propen-1-one | FC(COC1=C(C=C(C=C1)OCC(F)(F)F)C(C=CC1=CC(=C(C(=C1)OC)OC)OC)=O)(F)F | C22H20F6O6
